US09388189B2
(S)-4-Amino-6-((3-(benzyloxy)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)pyrimidine-5-carbonitrile
(S)-2-(1-Amino-3-(benzyloxy)propyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (24 mg, 0.06 mmol) was treated with 4-amino-6-chloropyrimidine-5-carbonitrile (10 mg, 0.06 mmol), N,N-diisopropylethylamine (59 μl, 0.34 mmol) according to the method described in Example 17. The residue was purified using SP1® Purification System (0% to 80%, hexane-ethyl acetate) to obtain 21 mg (73% yield) of the title compound as a yellow solid. Purity 100%.

reactant | (S)-2-(1-Amino-3-(benzyloxy)propyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.06 mmol, 24 mg | N[C@@H](CCOCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C23H24N4O2
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.06 mmol, 10 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N,N-diisopropylethylamine | 0.34 mmol, 59 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-4-Amino-6-((3-(benzyloxy)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)pyrimidine-5-carbonitrile | 21 mg, 73% yield | NC1=NC=NC(=C1C#N)N[C@@H](CCOCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H26N8O2
